US05098932
Using the procedure described in Example 1, 2-[3-(naphth-2-ylmethoxy)phenyl]-4-(2,5,5-trimethyl-1,3-dioxan-2-yl)butane-1,2-diol (0.77 g) was reacted with acetone to give 4-(2-acetylethyl)-2,2-dimethyl -4-[3-(naphth-2-ylmethoxy)phenyl]-1,3-dioxolane (0.32 g, 45%), as an oil.

reactant | 2-[3-(naphth-2-ylmethoxy)phenyl]-4-(2,5,5-trimethyl-1,3-dioxan-2-yl)butane-1,2-diol | 0.77 g | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)C(CO)(CCC1(OCC(CO1)(C)C)C)O | C28H34O5
reactant | acetone | CC(=O)C | C3H6O
product | 4-(2-acetylethyl)-2,2-dimethyl -4-[3-(naphth-2-ylmethoxy)phenyl]-1,3-dioxolane | 0.32 g, 45% | C(C)(=O)CCC1(OC(OC1)(C)C)C1=CC(=CC=C1)OCC1=CC2=CC=CC=C2C=C1 | C26H28O4
